US07101880B2
A mixture of methanesulfonamide (4.75 g, 50 mmol)) and trimethyl orthobenzoate (18.2 g, 100 mmol) was heated at 120° C. for 4 h in the presence of a catalytic amount of p-toluenesulfonic acid (50 mg). After being cooled to room temperature, the reaction mixture was diluted with ethyl acetate (100 mL) and washed with a saturated sodium bicarbonate aqueous solution and then water. The organic phase was dried over MgSO4, concentrated, and the resulting residue was treated with hexanes (100 mL) with stirring overnight. A white solid formed was filtered and washed with hexanes to yield a pure N-(methoxyphenylmethylene)methansulfonamide.

reactant | methanesulfonamide | 50 mmol, 4.75 g | CS(=O)(=O)N | CH5NO2S
reactant | trimethyl orthobenzoate | 100 mmol, 18.2 g | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-(methoxyphenylmethylene)methansulfonamide | COC(=NS(=O)(=O)C)C1=CC=CC=C1 | C9H11NO3S
